US07482350B2
Step 6. Preparation of 2-((2R)-4-{2-(2,6-dimethylphenyl)-5-[(5-isopropyl-2-methylphenoxy)methyl]-6-methyl-4-pyrimidinyl}-2-methyl-1-piperazinyl)acetamide
A mixture of 2-(2,6-dimethylphenyl)-5-[(5-isopropyl-2-methylphenoxy)methyl]-4-methyl-6-[(3R)-3-methylpiperazin-1-yl]pyrimidine (32 mg, 0.07 mmol), 2-bromoacetamide (29 mg, 0.21 mmol), sodium carbonate (44 mg) and DMA (1 mL) is heated at 60° C. under nitrogen with magnetic stirring for 18 h. The reaction mixture is allowed to cool and partitioned between EtOAc (8 mL) and water (2 mL). The organic layer is separated, washed with water (2 mL), brine (2 mL), dried over anhydrous sodium sulfate, filtered and evaporated to obtain a colorless oil. Purification by chromatography on silica gel (2% MeOH/DCM/0.1% Ammonium hydroxide) provides the title compound as a colorless oil. 1H NMR (300 MHz, CDCl3) δ 7.06-7.26 (m, 5H), 6.81-6.83 (m, 2H), 5.58 (br, d, J=6.3 Hz, 1H), 4.97 (dd, 2H), 3.77-3.86 (m, 2H), 3.25-3.33 (m, 2H), 2.80-3.00 (m, 4H), 2.45-2.62 (m, 5H), 2.22 (s, 3H), 2.16 (s, 6H), 1.27 (d, J=6.8 Hz, 6H), 0.93 (d, J=6.6 Hz, 3H).

reactant | 2-(2,6-dimethylphenyl)-5-[(5-isopropyl-2-methylphenoxy)methyl]-4-methyl-6-[(3R)-3-methylpiperazin-1-yl]pyrimidine | 0.07 mmol, 32 mg | CC1=C(C(=CC=C1)C)C1=NC(=C(C(=N1)C)COC1=C(C=CC(=C1)C(C)C)C)N1C[C@H](NCC1)C | C29H38N4O
reactant | 2-bromoacetamide | 0.21 mmol, 29 mg | BrCC(=O)N | C2H4BrNO
reactant | sodium carbonate | 44 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMA | 1 mL | CC(=O)N(C)C | C4H9NO
product | 2-((2R)-4-{2-(2,6-dimethylphenyl)-5-[(5-isopropyl-2-methylphenoxy)methyl]-6-methyl-4-pyrimidinyl}-2-methyl-1-piperazinyl)acetamide | CC1=C(C(=CC=C1)C)C1=NC(=C(C(=N1)N1C[C@H](N(CC1)CC(=O)N)C)COC1=C(C=CC(=C1)C(C)C)C)C | C31H41N5O2
